US07087626B2
1-(6-Methylpyridin-2-yl)-2-p-tolyl-ethanone
To a slurry of magnesium turnings (406 mg, 16.7 mmol) in toluene (10 mL) is added 4-methylbenzylchloride (10 mg, 0.06 mmol) dropwise in tetrahydrofuran (0.2 mL). Two drops of 1,2-dibromoethane are added, the mixture heated to 50° C., and allowed to cool to room temperature. This process is repeated until reaction initiates. 4-Methylbenzylchloride (1.5 g, 10 mmol) in tetrahydrofuran (7 mL) is added slowly while keeping the internal temperature below 32° C. After the addition is complete the reaction is stirred at room temperature for 1 h. The reaction mixture is added dropwise over 5 minutes to a solution of 6-methyl-pyridine-2-carboxylic acid methoxy-methyl-amide (Prep 250, 1 g, 5.6 mmol) in toluene (5 mL). The reaction is stirred for an additional 45 minutes. The reaction is quenched with 1 N hydrochloric acid and stirred for 30 minutes. The aqueous layer is neutralized with saturated sodium bicarbonate and extracted twice with ethyl acetate. The combined organic extracts are washed with brine, dried (sodium sulfate), filtered and concentrated in vacuo. The crude residue is chromatographed on SiO2 (50% ethyl acetate/hexane to 75% ethyl acetate/hexane) to yield the title compound, 633 mg (25%), as a brown oil.

reactant | magnesium | 16.7 mmol, 406 mg | [Mg] | Mg
reactant | 4-methylbenzylchloride | 0.06 mmol, 10 mg | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | 4-Methylbenzylchloride | 10 mmol, 1.5 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | 6-methyl-pyridine-2-carboxylic acid methoxy-methyl-amide | 5.6 mmol, 1 g | CON(C(=O)C1=NC(=CC=C1)C)C | C9H12N2O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | Two drops | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-Methylpyridin-2-yl)-2-p-tolyl-ethanone | CC1=CC=CC(=N1)C(CC1=CC=C(C=C1)C)=O | C15H15NO
